US06248755B1
Step A: 1-t-Butyloxycarbonyl-4-(2-hydroxyethyl)piperidine
A mixture of 4-(2-hydroxyethyl) piperidine (5.0 g, 40 mmol), di-t-butyl dicarbonate (10.9 g, 50 mmol), and triethylamine (7 mL, 50 mmol) in 100 mL of anhydrous CH2Cl2 was stirred overnight at room temperature. Volatiles were removed in vacuo and the resulting oil was purified on a silica gel column using 20% EtOAc in hexane as eluant to give 7.9 g of the desired product as a colorless oil.

reactant | 4-(2-hydroxyethyl) piperidine | 40 mmol, 5.0 g | OCCC1CCNCC1 | C7H15NO
reactant | di-t-butyl dicarbonate | 50 mmol, 10.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 50 mmol, 7 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-t-Butyloxycarbonyl-4-(2-hydroxyethyl)piperidine | 7.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
